US08138347B2
b) 4-chloro-6-quinolinecarbaldehyde
A mixture of 4-chloro-6-ethenylquinoline (5.1 g, 26.88 mmol), 2,6-lutidine (5.76 g, 53.75 mmol), sodium (meta) periodate (22.99 g, 107.51 mmol), and osmium tetroxide (5.48 g of a 2.5% solution in tert-butanol, 0.538 mmol) in 1,4-dioxane:H2O (350 mL of 3:1 mixture) was stirred for 3.5 h at room temperature and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (CH2Cl2) to give the title compound (4.26 g, 83% for 2 steps) as a pale yellow solid. MS (ES)+ m/e 192 [M+H]+.

reactant | 4-chloro-6-ethenylquinoline | 26.88 mmol, 5.1 g | ClC1=CC=NC2=CC=C(C=C12)C=C | C11H8ClN
reactant | 2,6-lutidine | 53.75 mmol, 5.76 g | N1=C(C=CC=C1C)C | C7H9N
reactant | sodium (meta) periodate | 107.51 mmol, 22.99 g | [O-]I(=O)(=O)=O.[Na+]
reactant | H2O | 350 mL | O | H2O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 4-chloro-6-quinolinecarbaldehyde | 4.26 g, 83% | ClC1=CC=NC2=CC=C(C=C12)C=O | C10H6ClNO
